US04785017
A solution of 8.75 g of ethyl 6-hydroxychromone-2-carboxylate in 200 ml of acetic acid was hydrogenated in the presence of 2 g of 10% palladium on charcoal at 50 psi and room temperature by shaking the suspension over a period of 17 hours. The catalyst was filtered and the filtrate was evaporated under reduced pressure to give 7.85 g of crude material. Purification of this compound by high-performance liquid chromatography (solvent system, hexane-ethyl acetate 3:1) yielded 4.9 g (59%) of pure crystalline racemic-3,4-dihydro-6-hydroxy-2H-1-benzopyran-2-carboxylic acid ethyl ester. Recrystallization from ethyl-acetate-hexane gave colorless solid, mp 72°-74° C.

reactant | ethyl 6-hydroxychromone-2-carboxylate | 8.75 g | OC=1C=C2C(C=C(OC2=CC1)C(=O)OCC)=O | C12H10O5
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 2 g | [Pd] | Pd
product | racemic-3,4-dihydro-6-hydroxy-2H-1-benzopyran-2-carboxylic acid ethyl ester | 4.9 g, 59% | C(C)OC(=O)C1OC2=C(CC1)C=C(C=C2)O | C12H14O4
